* MODELLING FOR STY16NA90
.SUBCKT STY16NA90 1 2 3
LG 2 4  7.5n
LS 12 3 7.5n
LD 6 1  4.5n
RG 4 5  2.530802419
RS 9 12 0.417E-03
RD 7 6  0.494
RJ 8 7  0.649E-03
CGS 5 9   0.5055E-08
CGD 7 10  0.1415E-07
CK  11 7  0.8636E-10
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.152E-01
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
.ENDS STY16NA90

.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 3.013
+ PHI   = 0.96
+ IS    = 0
+ JS    = 0
+ THETA = 0.402E-04
+ KP    = 19.9
+ Vmax  = 0.118E+07
+ Kappa = 4.55
+ eta   = 0.251E-03 
 
.MODEL DGD D
+ IS    =
+ CJO   = 0.135547E-09
+ VJ    = 1.06520
+ M     = 0.827373
.MODEL DBD D
+ IS    =
+ CJO   = 0.146592E-09
+ VJ    = 1.00951
+ M     = 0.996693
.MODEL DBS D
+ IS    =0.1P
+ BV    = 920
+ N     = 1
+ TT    = 0.342476E-06
+ RS    = 52948.5
.MODEL DID D
+ IS    =2P
+ RS    = 0
+ BV    = 920
* END OF MODELLING

